US07799814B2
Step III: Preparation of N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-N-pyrazin-2-ylacetamide
In a tube, 1-[4-Methyl-2-(pyrazin-2-ylamino)-1,3-thiazol-5-yl]ethanone, hydrochloride salt (500 mg; 1.85 mmol; 1 eq.) is mixed with acetic anhydride (2.16 ml; 22.90 mmol; 12.40 eq.). The tube is sealed and is heated at 150° C. with an oil bath. After 15 min, the mixture becomes yellow. The reaction is complete. The solvents are removed and N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-N-pyrazin-2-ylacetamide is used as such without further purification (510.3 mg; quantitative).

reactant | 1-[4-Methyl-2-(pyrazin-2-ylamino)-1,3-thiazol-5-yl]ethanone, hydrochloride salt | 1.85 mmol, 500 mg, 1 eq. | Cl.CC=1N=C(SC1C(C)=O)NC1=NC=CN=C1
reactant | acetic anhydride | 22.90 mmol, 2.16 ml, 12.40 eq. | C(C)(=O)OC(C)=O | C4H6O3
product | N-(5-acetyl-4-methyl-1,3-thiazol-2-yl)-N-pyrazin-2-ylacetamide | C(C)(=O)C1=C(N=C(S1)N(C(C)=O)C1=NC=CN=C1)C | C12H12N4O2S
